US09126931B2
3-Chloro-4-fluoro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
3-Chloro-4-fluoro-8-methoxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound S1-3, 220.0 mg, 0.640 mmol) and pyridinium chloride (800 mg, 6.922 mmol) were mixed with each other, heated to 160° C., and then stirred for 20 hr. The reaction solution was added with water. As a result, black solid was obtained as a precipitate, which was then filtered and subjected to purification by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (139.4 mg, 66%).

reactant | 3-Chloro-4-fluoro-8-methoxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.640 mmol, 220.0 mg | ClC1=CC=C2C=3C(C4=C(C(C3NC2=C1F)(C)C)C=C(C=C4)OC)=O | C19H15ClFNO2
reactant | pyridinium chloride | 6.922 mmol, 800 mg | [Cl-].[NH+]1=CC=CC=C1
solvent | water | O | H2O
product | 3-Chloro-4-fluoro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 139.4 mg, 66% | ClC1=CC=C2C=3C(C4=C(C(C3NC2=C1F)(C)C)C=C(C=C4)O)=O | C18H13ClFNO2
